US06127541
2-[2-(2-Hydroxyethoxy)ethylamino]benzonitrile
According to a similar manner to that in Reference Example 12, the title compound was synthesized from 2-fluorobenzonitrile and 2-(2-aminoethoxy)ethanol.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 2-(2-aminoethoxy)ethanol | NCCOCCO | C4H11NO2
product | 2-[2-(2-Hydroxyethoxy)ethylamino]benzonitrile | OCCOCCNC1=C(C#N)C=CC=C1 | C11H14N2O2
